US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (0.45 g) and (4-butylphenyl)[(4-dimethylaminophenyl)-methyl]amine (0.6 g) as starting materials, N-(4-butylphenyl)-N-[(4-dimethylaminophenyl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.35 g) was obtained.

reactant | 1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 0.45 g | C1(CCCC2=CC=CC=C12)C(=O)O | C11H12O2
reactant | (4-butylphenyl)[(4-dimethylaminophenyl)-methyl]amine | 0.6 g | C(CCC)C1=CC=C(C=C1)NCC1=CC=C(C=C1)N(C)C | C19H26N2
product | N-(4-butylphenyl)-N-[(4-dimethylaminophenyl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.35 g | C(CCC)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=CC=C12)CC1=CC=C(C=C1)N(C)C | C30H36N2O
